US06855708B2
To a solution of N-BOC-4(R)-hydroxyproline, methyl ester (Bachem, 17 g, 69 mmol) and MeI (276 mmol) in 250 mL of anhydrous THF at −30° C. was added LDA (Aldrich, 1.5 M in cyclohexane, 250 mmol). The reaction was allowed to warm up to rt over 4 h. The reaction was cooled to −30° C., and was quenched with saturated aqueous ammonium chloride (50 mL). The resulting mixture was partitioned between EtOAc and brine, and the product was extracted with EtOAc (3×100 mL). The combined extracts were dried over anhydrous MgSO4 and concentrated in vacuo. The solvent was removed in vacuo and the residue was purified by repeated flash column chromatography on silica gel eluted with 20:1 to 10:1 hexane/acetone to afford N-BOC-4(R)-hydroxy-2-methyl-(L)-proline, methyl ester (slower eluting and major isomer, 10 g, 58%). The stereochemistry was assigned by NMR comparisons with literature reports (Noe, C R et al Pharmazie 1996, 51, 800).

reactant | N-BOC-4(R)-hydroxyproline, methyl ester | 69 mmol, 17 g | C(=O)(OC(C)(C)C)N1[C@H](C(=O)OC)C[C@H](C1)O | C11H19NO5
reactant | MeI | 276 mmol | CI | CH3I
reactant | LDA | 250 mmol, 1.5 M | [Li+].CC(C)[N-]C(C)C
solvent | THF | 250 mL | C1CCOC1 | C4H8O
product | N-BOC-4(R)-hydroxy-2-methyl-(L)-proline, methyl ester | C(=O)(OC(C)(C)C)N1[C@](C(=O)OC)(C[C@H](C1)O)C | C12H21NO5
